US08030334B2
A flask is charged with 3-(2,2-dibromo-vinyl)-4-methoxy-pyridine (3.7 g, 12.63 mmol) and THF (100 mL), and 1.6 M nBuLi in pentane (17.4 mL, 27.79 mmol) is added dropwise at −78° C. The mixture is stirred at −78° C. for 1 h before addition of saturated aqueous NH4Cl (0.5 mL). The mixture is warmed to room temperature and poured into water (100 mL). The mixture is extracted with ethyl acetate and the combined organic phase is dried over Na2SO4. Concentration followed by silica gel flash chromatography eluting with a 0 to 5% methanol-dichloromethane gradient gives 4-methoxy-3-ethynyl-pyridine. 1H NMR (400 MHz, CDCl3) δ ppm 3.39 (s, 1H), 3.96 (s, 3H), 6.82 (d, J=5.8 Hz, 1H), 8.46 (d, J=5.8 Hz, 1H), 8.58 (s, 1H).

reactant | 3-(2,2-dibromo-vinyl)-4-methoxy-pyridine | 12.63 mmol, 3.7 g | BrC(=CC=1C=NC=CC1OC)Br | C8H7Br2NO
reactant | nBuLi | 1.6 M | [Li]CCCC
reactant | pentane | 27.79 mmol, 17.4 mL | CCCCC | C5H12
reactant | NH4Cl | 0.5 mL | [NH4+].[Cl-]
solvent | water | 100 mL | O | H2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-methoxy-3-ethynyl-pyridine | COC1=C(C=NC=C1)C#C | C8H7NO
